US08278316B2
4-(4-Chlorobenzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one
A stirred mixture of 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(methylthio)pyrimidin-2(1H)-one Part C of Procedure 1 (10 mg, 0.03 mmol), (4-chlorophenyl)methanol (85 mg, 0.6 mmol) and K2CO3 (12 mg, 0.09 mmol) in NMP (0.1 mL) was heated at 145° C. for 60 min, diluted with CH2Cl2, washed with water, dried (MgSO4), and concentrated. The residue was purified by flash chromatography (silica gel/hexane-EtOAc 100:0:0 to 0:100 gradient) to afford the title compound 4-(4-chlorobenzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one A-8 (5 mg, 36% yield) as a white solid. LC/MS 431 (M+H)+, tR 0.9 min (method 5); 1H NMR (400 MHz, chloroform-D) δ 7.53 (1H, d, J=7.03 Hz), 7.40 (2H, d, J=8.53 Hz), 7.37 (2H, d, J=8.78 Hz), 6.96 (1H, d, J=8.53 Hz), 6.91 (1H, d, J=2.26 Hz), 6.85 (1H, dd, J=8.53, 2.51 Hz), 6.00 (1H, d, J=7.03 Hz), 5.45 (2H, s), 3.86 (3H, s), 3.85 (2H, s), 1.35 (6H, s).

reactant | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-4-(methylthio)pyrimidin-2(1H)-one | OC(COC1=C(C=C(C=C1)N1C(N=C(C=C1)SC)=O)OC)(C)C | C16H20N2O4S
reactant | (4-chlorophenyl)methanol | 0.6 mmol, 85 mg | ClC1=CC=C(C=C1)CO | C7H7ClO
reactant | K2CO3 | 0.09 mmol, 12 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 0.1 mL | CN1CCCC1=O | C5H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-chlorobenzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one | ClC1=CC=C(COC2=NC(N(C=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O5
